US05767131
A suspension of 4-phenylpiperidine (5.20 g, 32.2 mmol, 1.00 equiv), 4-bromobutyronitrile (4.81 mL, 48.4 mmol, 1.50 equiv), potassium carbonate (11.14 g, 80.6 mmol, 2.50 equiv), and potassium iodide (266 mg, 12.9 mmol, 0.4 equiv) in n-butanol (60 mL) and 1,4-dioxane (60 mL) was stirred at reflux under argon for 48 hours. The mixture was cooled to room temperature and concentrated. The residue was purified by flash chromatography (SiO2, MeOH-EtOAc 1:19) to afford 3.95 g of 4-(4-phenylpiperidin-1-yl)butyronitrile (white solid, 53%), which was characterized spectroscopically.

reactant | 4-phenylpiperidine | 32.2 mmol, 5.20 g, 1.00 equiv | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | 4-bromobutyronitrile | 48.4 mmol, 4.81 mL, 1.50 equiv | BrCCCC#N | C4H6BrN
reactant | potassium carbonate | 80.6 mmol, 11.14 g, 2.50 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 12.9 mmol, 266 mg, 0.4 equiv | [I-].[K+]
solvent | n-butanol | 60 mL | C(CCC)O | C4H10O
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 4-(4-phenylpiperidin-1-yl)butyronitrile | 3.95 g, 53% | C1(=CC=CC=C1)C1CCN(CC1)CCCC#N | C15H20N2
